US07220759B2
(3S,5R)-5-Hydroxymethylpyrrolidin-3-ol hydrochloride (0.4 g) described in Biochemistry, Vol. 5, pp. 1154–1155 (1966) was dissolved in aqueous potassium carbonate solution (2 mL) and acetonitrile (2 mL). Acrylonitrile (0.5 mL) was added and the mixture was stirred at room temperature for 5 hr. After the completion of the reaction, the reaction mixture was concentrated and the obtained residue was suspended in chloroform-methanol and dried by adding magnesium sulfate. Magnesium sulfate was filtered off and the solvent was concentrated to give 3-[(2R,4S)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propionitrile (0.47 g).

reactant | (3S,5R)-5-Hydroxymethylpyrrolidin-3-ol hydrochloride | 0.4 g | Cl.OC[C@H]1C[C@@H](CN1)O
reactant | Acrylonitrile | 0.5 mL | C(C=C)#N | C3H3N
solvent | potassium carbonate | 2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-[(2R,4S)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propionitrile | 0.47 g | O[C@H]1C[C@@H](N(C1)CCC#N)CO | C8H14N2O2
